US05409956
10.6 g (37.7 mmol) of 2-(benzyloxycarbonylaminomethyl)indan was dissolved in 100 ml of methanol, to which 1.3 g of palladium on carbon was added and stirred for 4 hours in the stream of hydrogen. The catalyst was removed by filtration, the solvent was evaporated, and 5.04 g of 2-(aminomethyl)indan was obtained. The obtained compound was immediately dissolved in 150 ml of methylene chloride, to which 100 ml of water and 6.2 g of potassium carbonate were added, and the mixture was vigorously stirred. 8.02 g (38.0 mmol) of 4-chlorobenzenesulfonyl chloride was added thereto portionwise under ice-cooling, followed by stirring for 30 minutes. The organic phase was collected, dried and the solvent was removed by distillation. The crystalline residue was recrystallized from a solvent mixture of ethyl acetate and hexane to obtain 9.82 g of 2-[(4-chlorophenyl)sulfonylaminomethyl]indan as colorless needles. Yield: 76%

reactant | 2-(benzyloxycarbonylaminomethyl)indan | 37.7 mmol, 10.6 g | C(C1=CC=CC=C1)OC(=O)NCC1CC2=CC=CC=C2C1 | C18H19NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 1.3 g | [Pd] | Pd
product | 2-(aminomethyl)indan | 5.04 g | NCC1CC2=CC=CC=C2C1 | C10H13N
